US05166170
2-[2-(Octyloxycarbonylamino)phenyl]-2,3-dihydro-1H-indole
Octyl chloroformate (2.00 ml) was added dropwise to a solution of 2.15 g 2-(2-aminophenyl)-2,3-dihydro-1H-indole and 2.00 ml pyridine in 35 ml CH2Cl2 at 0° C. The solution was stirred five hours at 0° C. and then quenched with water. The organic layer was separated, washed with 5% HCl and saturated NaCl solution, dried (MgSO4), and concentrated to yield a solid. Purification by flash chromatography using CH2Cl2 /hexane (1:2) as eluent gave 1.74 g solid, m.p. 99°-102° C.

reactant | Octyl chloroformate | 2.00 ml | ClC(=O)OCCCCCCCC | C9H17ClO2
reactant | 2-(2-aminophenyl)-2,3-dihydro-1H-indole | 2.15 g | NC1=C(C=CC=C1)C1NC2=CC=CC=C2C1 | C14H14N2
reactant | pyridine | 2.00 ml | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 35 ml | C(Cl)Cl | CH2Cl2
product | 2-[2-(Octyloxycarbonylamino)phenyl]-2,3-dihydro-1H-indole | 1.74 g | C(CCCCCCC)OC(=O)NC1=C(C=CC=C1)C1NC2=CC=CC=C2C1 | C23H30N2O2
